US08703768B2
Step 1: 4-Nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole-3-carboxylic acid ethyl ester
The product was obtained as a single regioisomer according to the method described in example 4, step 2 starting from 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester and 2,2,2-trifluoroethyl methanesulfonate after purification by silica gel chromatography using a heptane/ethyl acetate gradient as yellow oil (568 mg, 84%).

reactant | 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NNC=C1[N+](=O)[O-] | C6H7N3O4
reactant | 2,2,2-trifluoroethyl methanesulfonate | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
product | 4-Nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C=C1[N+](=O)[O-])CC(F)(F)F | C8H8F3N3O4
